US09226922B2
At 0° C., to a solution of (S)-tert-butyl(2-(methoxy(methyl)amino)-2-oxo-1-phenylethyl)carbamate (0.9 g, 3.06 mmol) in anhydrous THF (15 mL), was added MeMgBr (3M solution in Et2O, 2.0 mL, 6.1 mmol) and resultant mixture was allowed to warm and stirred at ambient temperature. After 2 hrs, the reaction was carefully quenched with saturated aqueous NH4Cl solution (10 mL), and the organic contents were extracted with CH2Cl2 (3×25 mL). The volatiles were removed under reduced pressure to afford (S)-tert-butyl(2-oxo-1-phenylpropyl)carbamate. The compound obtained is pure and no further purification is necessary. 1H NMR (300 MHz, CDCl3) δ 7.40-7.33 (m, 5H), 5.88 (bs, 1H), 5.28 (bs, 1H), 2.08 (s, 3H), 1.41 (s, 9H).

reactant | (S)-tert-butyl(2-(methoxy(methyl)amino)-2-oxo-1-phenylethyl)carbamate | 3.06 mmol, 0.9 g | C(C)(C)(C)OC(N[C@H](C(=O)N(C)OC)C1=CC=CC=C1)=O | C15H22N2O4
reactant | MeMgBr | 6.1 mmol, 3M, 2.0 mL | C[Mg+].[Br-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl(2-oxo-1-phenylpropyl)carbamate | C(C)(C)(C)OC(N[C@H](C(C)=O)C1=CC=CC=C1)=O | C14H19NO3
